US05696169
Zinc-nicotinamide complex:
4.89 g (0.04 mol) of nicotinamide is dissolved in 100 ml of ethanol, to which 2.73 g (0.02 mol) of ZnCl2 in 50 ml of ethanol is added and mixed. When stirred, white crystals immediately precipitate. The precipitate is filtered with a No. 5C filter paper, followed by washing with ethanol and then with diethyl ether. The washed product is allowed to stand for evaporating diethyl ether, and dried at 60° C. in an electric oven to obtain the desired compound.

reactant | nicotinamide | 0.04 mol, 4.89 g | C(C1=CN=CC=C1)(=O)N | C6H6N2O
reactant | ZnCl2 | 0.02 mol, 2.73 g | [Cl-].[Cl-].[Zn+2]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Zinc nicotinamide | [Zn].C(C1=CN=CC=C1)(=O)N | InChI=1S/C6H6N2O.Zn/c7-6(9)5-2-1-3-8-4-5;/h1-4H,(H2,7,9);
